US05281747
A mixture of 520 mg (2.6 mmol) of ethyl P-(3-aminopropyl)-P-difluoromethyl-phosphinate and 5 ml of 12M hydrochloric acid is refluxed for 3 hours and then evaporated to dryness. The residue is dissolved in 5 ml of methanol. To the stirred solution 25 ml of epoxypropane are added dropwise, upon which spontaneous crystallisation occurs. The crystals are collected and dried yielding P-(3-aminopropyl)-P-difluoromethyl-phosphinic acid of m.p. 261°.

reactant | ethyl P-(3-aminopropyl)-P-difluoromethyl-phosphinate | 2.6 mmol, 520 mg | NCCCP(OCC)(=O)C(F)F | C6H14F2NO2P
reactant | hydrochloric acid | 12M, 5 ml | Cl | ClH
product | P-(3-aminopropyl)-P-difluoromethyl-phosphinic acid | NCCCP(O)(=O)C(F)F | C4H10F2NO2P
